US04201702
About 10 parts by weight of fine granular hydrated silica, 30 parts by weight of methallyl chloride and 10 parts by weight of methyl methacrylate are mixed then agitated at a temperature between ambient and the boiling temperature of methallyl chloride and at ambient pressure for about 1 hour; the chemical reaction is complete in 1 to 12 hours, thereby producing a soft, poly (methallyl chloride methyl methacrylate) copolymer.

reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | methallyl chloride methyl methacrylate | COC(C(=C)C)=O.C(C(C)=C)Cl | InChI=1S/C5H8O2.C4H7Cl/c1-4(2)5(6)7-3;1-4(2)3-5/h1H2,2-3H3;1,3H2,2H3
